US03957783
To a mixture of 46.4 g of 2-amino-3-(o-chlorobenzoyl)-5-ethylthiophene, 46.4 g of pyridine and 1160 ml of anhydrous ether is added dropwise 46.4 g of acetyl chloride. Then the reaction mixture is stirred under reflux for 2 hours. After cooling, the reaction mixture is poured into water. The ether layer is separated and washed with water, and dried over sodium sulfate. The solvent is removed under reduced pressure to give crystals of 2-acetylamino-3-(o-chlorobenzoyl)-5-ethylthiophene, which are recrystallized from ethanol-ether to give crystals having a melting point of 132° - 134°C; yield 42.44 g (79%).

reactant | 2-amino-3-(o-chlorobenzoyl)-5-ethylthiophene | 46.4 g | NC=1SC(=CC1C(C1=C(C=CC=C1)Cl)=O)CC | C13H12ClNOS
reactant | pyridine | 46.4 g | N1=CC=CC=C1 | C5H5N
reactant | ether | 1160 ml | CCOCC | C4H10O
reactant | acetyl chloride | 46.4 g | C(C)(=O)Cl | C2H3ClO
solvent | water | O | H2O
product | 2-acetylamino-3-(o-chlorobenzoyl)-5-ethylthiophene | C(C)(=O)NC=1SC(=CC1C(C1=C(C=CC=C1)Cl)=O)CC | C15H14ClNO2S
